US09284333B2
To a solution of 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester (Comp. No. 2a) (8.2 g, 42 mmol) in anhydrous dichloromethane (50 ml) was added trichloro-acetyl chloride (15.2 g, 84 mmol). The resulting mixture was stirred at room temperature for 3 days, and then evaporated to dryness. The crude product was purified by silica gel chromatography (eluting with 5 to 50% ethyl acetate in heptane) to give 11.3 g of 6-(2,2,2-trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester. LC/MS (method 4): Rt=1.36 min; m/z=340.08 (M+H+).

reactant | 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CN2C1COCC2 | C10H13NO3
reactant | trichloro-acetyl chloride | 84 mmol, 15.2 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-(2,2,2-trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester | 11.3 g | C(C)OC(=O)C=1C=C(N2C1COCC2)C(C(Cl)(Cl)Cl)=O | C12H12Cl3NO4
